US09278089B2
Synthesis of 5-(3-Methyl-butyryl)-1H-indole-2-carboxylic acid. DMF (5 mL) and water (0.625 mL) are added to the mixture of 3-Bromo-5-(3-methyl-butyryl)-1H-indole-2-carboxylic acid ethyl ester (408 mg, 1.1 mmol), ammonium formate (110 mg, 1.7 mmol), and 10% Pd/C (200 mg). The mixture is slightly shaken at room temperature for 70 minutes and then filtered through celite. The solvent is evaporated under vacuum to give 5-(3-Methyl-butyryl)-1H-indole-2-carboxylic acid ethyl ester as light yellow liquid as crude product with the purity of 90%; EI-MS m/z 274.1 (M++H). The crude ethyl ester is dissolved in dioxane (10 mL), then a solution of LiOH.H2O (195 mg, 4.6 mmol) in water (5 mL) is added to the flask. The mixture is stirred at room temperature for 2 days. Dioxane is stripped under vacuum. 10 mL water is added and extracted with CH2Cl2. The aqueous phase is then acidified with 6N HCl and extracted with CH2Cl2. The CH2Cl2 phase is then washed with saturated brine and dried over anhydrous Na2SO4. Solvent is removed under vacuum to give 5-(3-Methyl-butyryl)-1H-indole-2-carboxylic acid (250 mg, 88% for two steps) as white solid. EIMS m/z 246.1 (M++H).

reactant | 5-(3-Methyl-butyryl)-1H-indole-2-carboxylic acid | CC(CC(=O)C=1C=C2C=C(NC2=CC1)C(=O)O)C | C14H15NO3
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | 3-Bromo-5-(3-methyl-butyryl)-1H-indole-2-carboxylic acid ethyl ester | 1.1 mmol, 408 mg | C(C)OC(=O)C=1NC2=CC=C(C=C2C1Br)C(CC(C)C)=O | C16H18BrNO3
reactant | ammonium formate | 1.7 mmol, 110 mg | C(=O)[O-].[NH4+]
catalyst | Pd/C | 200 mg | [Pd] | Pd
solvent | water | 0.625 mL | O | H2O
product | 5-(3-Methyl-butyryl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C(CC(C)C)=O | C16H19NO3
